reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[O:4]([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:11]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],56.539122833551396
[C:1]([C:2]([C:3]([C:4](=[C:6]([H:18])[H:19])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:15])([H:16])([H:17])[H:20]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],93.77754916585519
[N:1]([C-:2]=[O+:3][C:4](=[O:5])[H:9])([N+:7]#[C-:6])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],35.4318377607991
[O:1]=[C:5]1[C:4]([H:9])([H:10])[N:3]([H:8])[C:2]([H:7])=[C:6]1[H:11]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],141.7898639873959
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O+:5]=[C-:4][C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],62.7233971374228
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([O:5][H:14])=[C:6]([H:16])[C:7]1([H:15])[H:17])([H:8])([H:9])[H:10],60.6618193386672
[O:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[O:4][C:5]1([O:6][H:7])[H:12]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],36.936426892907335
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3]([C:4]([H:13])([H:14])[H:15])=[C:5]=[C+:6][H:16].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],85.97658998985494
[N:1](=[C:2]1\[O:5][C:6]([H:9])=[C:7]1[H:10])\[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],7.350202618668199
[C:1]([C@@:2]1([H:9])[C@@:3]2([H:10])[C:4]([H:11])([H:12])[C:5]([H:8])([H:13])[N:6]12)[H:7]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23,18.0274300210652
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2](/[C:3]([O:4][H:10])=[C:5](/[O:6][H:11])[H:12])([H:8])[H:9])[H:7],66.3112232346454
[N:1](=[c:2]1/[n:3]([H:8])[c:4]([H:9])[n:5][o:6]1)\[H:7]>>[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8],46.95357957334559
[C:1](=[N:2]/[C:3](=[N:4]/[H:11])[C:5]#[N:6])([H:7])[H:8].[H:9][H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],25.072163009784994
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:19])([H:8])([H:9])[H:10].[C:3](=[O:4])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:14])[H:15])[H:13],79.17110720913541
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][O:6][C:5](=[C:4]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],92.6141621397791
[O:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[C:4]1([H:9])[H:10])[H:5]>>[H:6][H:9].[O:1]([C:2]1=[C:4]([H:10])[C:3]1([H:7])[H:8])[H:5],119.559136981924
[C:1](=[C:2]([H:9])[H:10])([H:6])[H:8].[C:3](=[C:4]([O:5][H:7])[H:13])([H:11])[H:12]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],28.4574945008535
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2][C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:13],90.3456182062123
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([O+:4]=[C-:3][C:5]#[C:6][H:8])[H:7],57.0922875960885
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C@:2]([C:3](=[O:4])[H:11])([H:10])/[C:5]1=[N:6]/[H:8],108.536943979412
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C:4][C@:7]1([H:17])[C@@:6]2([C:5]([H:13])([H:14])[H:15])[H:16],74.24785969691102
[C:1](#[C:2][C:3]([N:4]1[C:5]([H:10])([H:11])[C:6]1([H:12])[H:13])([H:8])[H:9])[H:7]>>[C:1]1([H:7])([H:11])[C:2][C:3]([H:8])([H:9])[N:4]2[C@@:5]1([H:10])[C:6]2([H:12])[H:13],70.7951573095582
[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6]>>[C:2]1([H:7])([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[O:5]1.[O:1]([H:6])[H:13],80.5223188695696
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])([C:6]#[N:7])[H:14],80.3345664316419
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O+:7]=[C:6]([C:5]#[C-:4])[H:15])[H:11])([H:8])([H:9])[H:10],96.1013825741511
